US07812022B2
Step D: 2,2,2-Trifluoro-N-[3-(3-{2-[(3-fluorophenyl)amino]-4-pyrimidinyl}pyrazolo-[1,5-a]pyridin-2-yl)phenyl]acetamide
To a mixture of N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide (2.27 g, 5.4 mmol) in ethanol (60 mL) was added 3-fluoroaniline (0.62 mL, 6.48 mmol) and 5 drops of conc. HCl. The reaction was heated to 80° C. for 16 h, allowed to cool to rt and concentrated. The mixture was partioned between DCM and saturated aq. NaHCO3. The separated aqueous layer was extracted with DCM (2×) and the combined organic layers were dried over MgSO4, filtered and concentrated to give, after trituration of the residue, the title compound as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 11.34 (s, 1H), 9.78 (s, 1H), 8.83 (d, 1H, J=7.2), 8.43 (d, 1H, J=9.2), 8.30 (d, 1H, J=5.2), 7.97 (s, 1H), 7.79-7.72 ((m, 2H), 7.52-7.40 (m, 4H), 7.22 (q, 1H, J=7.6), 7.12 (t, 1H, J=6.8), 6.69 (m, 1H), 6.56 (d, 1H, J=5.2).

reactant | N-{3-[3-(2-chloro-4-pyrimidinyl)pyrazolo[1,5-a]pyridin-2-yl]phenyl}-2,2,2-trifluoroacetamide | 5.4 mmol, 2.27 g | ClC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(C(F)(F)F)=O | C19H11ClF3N5O
reactant | 3-fluoroaniline | 6.48 mmol, 0.62 mL | FC=1C=C(N)C=CC1 | C6H6FN
solvent | ethanol | 60 mL | C(C)O | C2H6O
catalyst | HCl | 5 drops | Cl | ClH
product | 2,2,2-Trifluoro-N-[3-(3-{2-[(3-fluorophenyl)amino]-4-pyrimidinyl}pyrazolo-[1,5-a]pyridin-2-yl)phenyl]acetamide | FC(C(=O)NC1=CC(=CC=C1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC(=CC=C1)F)(F)F | C25H16F4N6O
